US04705797
Preparation of methyl 4-bromobutyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate
A suspension comprising 9.96 g of 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-5-methoxycarbonyl-pyridine-3-carboxylic acid, 5.4 ml of 1,4-dibromobutane and 2.07 g of potassium carbonate in 60 ml of dimethylformamide was heated at 50° C. under stirring for 2.5 hours. The mixture was then cooled to room temperature, poured into 400 ml of water and extracted with diethyl ether. The ethereal extracts were then dried on anhydrous sodium sulfate and evaporated to dryness to give an oil which was purified by flash chromatography on silica gel columns, employing first chloroform and then chloroform: ethyl acetate 97:3 by volume as eluent.

reactant | 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-5-methoxycarbonyl-pyridine-3-carboxylic acid | 9.96 g | CC=1NC(=C(C(C1C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C16H16N2O6
reactant | 1,4-dibromobutane | 5.4 ml | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 400 ml | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | methyl 4-bromobutyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCCBr)C | C20H23BrN2O6
